US04232010
2-(benzothiazol-2-yl)-5-dimethoxyphosphinylmethylpyridine;
2-(benzothiazol-2-yl)-5-diethoxyphosphinylmethylpyridine; 2-(benzothiazol-2-yl)-5-di-n-propyloxyphosphinylmethylpyridine; 2-(benzothiazol-2-yl)-5-di-iso-propyloxyphosphinylmethylpyridine; 2-(benzothiazol-2-yl)-5-di-n-butyloxyphosphinylmethylpyridine; 1-(benzothiazol-2-yl)-4-dimethoxyphosphinylmethylbenzene; 1-(benzothiazol-2-yl)-4-diethoxyphosphinylmethylbenzene; 1-(benzothiazol-2-yl)-4-di-n-propyloxyphosphinylmethylbenzene; 1-(benzothiazol-2-yl)-4-di-iso-propyloxyphosphinylmethylbenzene; and 1-(benzothiazol-2-yl)-4-di-n-butyloxyphosphinylmethylbenzene.

reactant | 2-(benzothiazol-2-yl)-5-diethoxyphosphinylmethylpyridine | S1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)CP(=O)(OCC)OCC | C17H19N2O3PS
reactant | 1-(benzothiazol-2-yl)-4-dimethoxyphosphinylmethylbenzene | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CP(=O)(OC)OC | C16H16NO3PS
reactant | 1-(benzothiazol-2-yl)-4-diethoxyphosphinylmethylbenzene | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)CP(=O)(OCC)OCC | C18H20NO3PS
product | 2-(benzothiazol-2-yl)-5-dimethoxyphosphinylmethylpyridine | S1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)CP(=O)(OC)OC | C15H15N2O3PS
